US07547710B2
To a solution of tert-butyl [6-amino-2-isobutyl-4-(4-methylphenyl)-3-quinolinyl]methylcarbamate (0.21 g, 0.5 mmol) in tetrahydrofuran (10 ml) were added dropwise methanesulfonyl chloride (0.05 ml, 0.6 mmol) and triethylamine (0.08 ml, 0.6 mmol) and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give tert-butyl [2-isobutyl-4-(4-methylphenyl)-6-[(methylsulfonyl)amino]-3-quinolinyl]methylcarbamate (0.21 g, yield 84%) as white crystals.

reactant | tert-butyl [6-amino-2-isobutyl-4-(4-methylphenyl)-3-quinolinyl]methylcarbamate | 0.5 mmol, 0.21 g | NC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C26H33N3O2
reactant | methanesulfonyl chloride | 0.6 mmol, 0.05 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.6 mmol, 0.08 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-butyl [2-isobutyl-4-(4-methylphenyl)-6-[(methylsulfonyl)amino]-3-quinolinyl]methylcarbamate | 0.21 g, yield 84% | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)NS(=O)(=O)C | C27H35N3O4S
